US08580762B2
Step 14: Synthesis of 7-((3aS,4R,6R,6aR)-6-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of 7-((3aS,4R,6R,6aR)-6-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine (76 mg, 0.10 mmol) in methanol (2.5 mL) was treated with sodium cyanoborohydride (84 mg, 1.3 mmol), The pH of the solution was adjusted to ˜6 by the dropwise addition of a 10% (v/v) solution of glacial acetic acid in methanol. The mixture was treated with 37% aqueous formaldehyde (0.12 mL, 1.7 mmol) dropwise and the mixture was stirred at room temperature till complete by LCMS. After 2 h, the reaction was complete and the reaction mixture was concentrated to remove the methanol. The aqueous solution that remained was diluted with 7 mL NaHCO3 and the aqueous phase was extracted with three 10 mL portions of CH2Cl2. The organic phase was dried over Na2SO4, filtered, and concentrated to yield a colorless stiff foam/glass. The crude material was purified by flash chromatography (20 g silica gel; 4% 7N NH3 in CH3OH/CH2Cl2) to yield the title compound (62 mg, 80%) as a colorless glass: MS (ESI+) for C39H45ClF3N7O4 m/z 768.0 (M+H)+; MS (ESI−) for C39H45ClF3N7O4 m/z 766.3 (M−H)−; HPLC purity 92.1% (ret. time, 3.29 min).

reactant | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.10 mmol, 76 mg | ClC=1C(=CC2=C(NC(=N2)CCC2CC(C2)NC[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C1)C(F)(F)F | C38H43ClF3N7O4
reactant | sodium cyanoborohydride | 1.3 mmol, 84 mg | C(#N)[BH3-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | formaldehyde | 1.7 mmol, 0.12 mL | C=O | CH2O
solvent | methanol | 2.5 mL | CO | CH4O
product | 7-((3aS,4R,6R,6aR)-6-(((3-(2-(6-chloro-5-(trifluoromethyl)-1H-benzo[d]imidazol-2-yl)ethyl)cyclobutyl)(methyl)amino)methyl)-2,2-dimethyltetrahydro-3aH-cyclopenta[d][1,3]dioxol-4-yl)-N-(2,4-dimethoxybenzyl)-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 62 mg, 80% | ClC=1C(=CC2=C(NC(=N2)CCC2CC(C2)N(C)C[C@H]2C[C@H]([C@H]3[C@@H]2OC(O3)(C)C)N3C=CC2=C3N=CN=C2NCC2=C(C=C(C=C2)OC)OC)C1)C(F)(F)F | C39H45ClF3N7O4
